US07423047B2
Sodium 3-cyano-1-(2-methylphenyl)-6-oxo-1,6-dihydropyridine-2-thiolate
A solution of sodium bis(trimethylsilyl)amide (84 mL of a 1.0M solution in THF, 84 mmol) was added to a solution of o-tolyl isothiocyanate (5.0 g, 33.5 mmol) and acetonitrile (18 mL, 0.345 mol) in THF (100 mL) at −78° C. The mixture was allowed to warm to r.t. over 3 h. N,N-Dimethyluracil (4.62 g, 33 mmol) and EtOH (75 mL) were added and the mixture heated at reflux for 3 h then stirred at r.t. overnight. Volatiles were removed in vacuo. The residue was used crude in the next step without further purification.

reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | o-tolyl isothiocyanate | 33.5 mmol, 5.0 g | C=1(C(=CC=CC1)N=C=S)C | C8H7NS
reactant | acetonitrile | 0.345 mol, 18 mL | C(C)#N | C2H3N
reactant | EtOH | 75 mL | CCO | C2H6O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | Sodium 3-cyano-1-(2-methylphenyl)-6-oxo-1,6-dihydropyridine-2-thiolate | C(#N)C1=C(N(C(C=C1)=O)C1=C(C=CC=C1)C)[S-].[Na+] | InChI=1S/C13H10N2OS.Na/c1-9-4-2-3-5-11(9)15-12(16)7-6-10(8-14)13(15)17;/h2-7,17H,1H3;/q;+1/p-1
